US04366170
C. 2-Bromo-3-phenyl-1-propene
A 1000 ml 3-necked round-bottomed flask was fitted with a mechanical stirrer through a mineral oil sealed bearing, a reflux condenser and 1000 ml addition funnel. A mixture of 156 g of 2,3-dibromopropene and 150 ml of dry ethyl ether was added. The flask was cooled to 0° C. in acetone/dry-ice and a solution of phenyl magnesium bromide, prepared from 18.7 g of magnesium, 120.8 g of bromobenzene, and 350 ml of dry ether was added at such a rate so that the temperature did not exceed 15° C. The addition took about one hour. Stirring was continued and the acetone/dry-ice bath was replaced with a heating mantle. The mixture was gently refluxed for 2 hours, after which time the flask was again cooled and a solution of 15 ml 36% hydrochloric acid and 150 ml water was added dropwise by means of an addition funnel. The contents of the flask were then transferred to a separatory funnel, and the ether layer was separated and dried over anhydrous sodium sulfate.

reactant | 2,3-dibromopropene | 156 g | BrC(=C)CBr | C3H4Br2
reactant | phenyl magnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | magnesium | 18.7 g | [Mg] | Mg
reactant | bromobenzene | 120.8 g | BrC1=CC=CC=C1 | C6H5Br
reactant | hydrochloric acid | 15 ml | Cl | ClH
solvent | acetone dry-ice | CC(=O)C.C(=O)=O
solvent | water | 150 ml | O | H2O
solvent | ether | 350 ml | CCOCC | C4H10O
solvent | ethyl ether | 150 ml | C(C)OCC | C4H10O
product | 2-Bromo-3-phenyl-1-propene | BrC(=C)CC1=CC=CC=C1 | C9H9Br
